US07700641B2
Synthesis of 5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one
Following the procedure as described in EXAMPLE 1.49, and making non-critical variations using 1′-(diphenylmethyl)-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one to replace 1′-(diphenylmethyl)-6,7-dihydrospiro[benzo[1,2-b:4,5-b′]difuran-3,3′-indol]-2′(1′H)-one, the title compound was obtained (68%): mp 208-210° C.; 1H NMR (300 MHz, DMSO-d6) δ 10.53 (s, 1H), 7.39-6.76 (m, 4H), 6.45 (s, 1H), 6.35 (s, 1H), 4.68 (ABq, 2H), 4.45 (t, 2H), 2.92 (t, 2H); MS (ES+) m/z 280.2 (M+1).

reactant | 1′-(diphenylmethyl)-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one | C1(=CC=CC=C1)C(N1C(C2(C3=CC=CC=C13)C1=C(OC2)C=C2OCCC2=C1)=O)C1=CC=CC=C1 | C30H23NO3
reactant | 1′-(diphenylmethyl)-6,7-dihydrospiro[benzo[1,2-b:4,5-b′]difuran-3,3′-indol]-2′(1′H)-one | C1(=CC=CC=C1)C(N1C(C2(C3=CC=CC=C13)C=1C(OC2)=CC2=C(OCC2)C1)=O)C1=CC=CC=C1 | C30H23NO3
product | 5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one | N1C(C2(C3=CC=CC=C13)C1=C(OC2)C=C2OCCC2=C1)=O | C17H13NO3
